US05443698
The electrochemical reaction was carried out in a reaction cell containing 20.0 g (0.138 mole) of 2-ethylhexanoic acid, 10.0 g mineral spirits and 40.0 g of 0.1N sodium hydroxide. A cobalt rod was used as the anode and platinum foil as the cathode. The connections were made and direct current was passed through the cell. After passing 14,645 coulombs of electricity, the electrosynthesis process was terminated and the weight of the cobalt consumed in the reaction was determined. 3.68 g (0.062 mole) cobalt was consumed. The organics were separated from the aqueous phase and were dried under reduced pressure resulting in a violet solution of cobalt octoate in mineral spirits that contained 10.1% cobalt.

reactant | 2-ethylhexanoic acid | 0.138 mole, 20.0 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | sodium hydroxide | 0.1N, 40.0 g | [OH-].[Na+]
reactant | cobalt | [Co] | Co
reactant | cobalt | 0.062 mole, 3.68 g | [Co] | Co
catalyst | platinum | [Pt] | Pt
product | cobalt octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Co+2] | InChI=1S/2C8H16O2.Co/c2*1-3-5-6-7(4-2)8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+2/p-2
